US05990118
(1) Synthesis of 6-(1-methylhydrazino)-9H-purine-2(3H)-one [13]
2-Oxo-6-thioxo-1,2,3,6-tetrahydro-9H-purine (1.0 g, 5.9 mmol) were added to methylhydrazine (20 ml), and the mixture was stirred in a sealed tube for 30 minutes at 120° C. After completion of reaction, the mixture was concentrated under reduced pressure. The residual crystals were washed with 50% ethanol, and crystals collected by filtration were recrystallized from ethanol to obtain 0.64 g (yield 60%) of colorless powdery crystals (m.p.=247° C. (decomposed)).

reactant | 2-Oxo-6-thioxo-1,2,3,6-tetrahydro-9H-purine | 5.9 mmol, 1.0 g | O=C1NC(C=2N=CNC2N1)=S | C5H4N4OS
reactant | methylhydrazine | 20 ml | CNN | CH6N2
product | 6-(1-methylhydrazino)-9H-purine-2(3H)-one | 0.64 g, yield 60% | CN(N)C=1C=2N=CNC2NC(N1)=O | C6H8N6O
